Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
PCP:  ___
CHIEF COMPLAINT:  Chest pain

 
Major Surgical or Invasive Procedure:
___ Cardiac Catheterization with 1 DES to LAD

 
History of Present Illness:
Mr. ___ is a ___ with a PMHx notable for tobacco abuse, HCV 
(s/p treatment), who is presenting with sudden onset chest pain. 


Patient reports that symptoms started around 630PM today while 
lying in bed. The pain was tight and intermittent, but then 
became constant. He presented to ___ where he was found 
to have prominent T wave in early precordial leads and was sent 
to ___ for further management. Of note, at the OSH, his 
D-Dimer was negative. He was placed on a heparin gtt and a nitro 
gtt and was transferred to ___ for further evaluation. 

ED COURSE
In the ED intial vitals were: 97.8 60 126/81 16 99% RA.
EKG: incomplete RBBB with PAC's. <1mm STE V2-V3
Labs/studies notable for: Trop-T 0.12 (22:50) -> 0.34 (02:58) -> 
0.36 (09:04) -> 0.29 (1500)
Patient was given: nitroglycerin drip, heparin drip, 
atorvastatin 80 mg.
Vitals on transfer: 

The patient was sent directly to the catheterization lab, where 
he was found to have a tight mid-LAD lesion, which was fixed 
with a DES. Plans were reported for him to have his tirofiban 
stopped 2 hours after arrival to the floor and for him to start 
ticagrelor next day 90mg BID. It was not documented if the 
ticagrelor was loaded in the lab so it was reloaded the 
following day 180mg. 

Currently, patient feels very good without any current chest 
pain, shortness of breath or palpitations. Denies any nausea, 
vomiting, abdominal pain. 

REVIEW OF SYSTEMS: Per HPI, otherwise negative

 
Past Medical History:
- HCV (s/p Interferon/Ribavirin in ___, cured. Acquired from 
prison tattoos)
- Tobacco abuse
- Hx of drug abuse (cocaine, EtoH)
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory.  Has a brother 
and sister who are healthy without cardiac disease. 
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
================================
VS: 97.9 109/64 65 15 98% on RA
Weight: 85.8 kg
GENERAL: NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple with JVP flat
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops. No 
thrills, lifts. 
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: Multiple tattoos on his chest and arms
PULSES:  Distal pulses palpable and symmetric
ACCESS: PIV and right radial line

DISCHARGE PHYSICAL EXAM:
================================
Vitals:  97.9 ___ 90-112/50-60
Tele: no alarms, NSR
Last 24 hours I/O: 300/800
Last 8 hours I/O:  114/300
Weight on admission: 85.8
Today's weight: 85.8
GENERAL: NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple with JVP flat
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops. No 
thrills, lifts. 
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: Multiple tattoos on his chest and arms
PULSES:  Distal pulses palpable and symmetric
 
Pertinent Results:
ADMISSION LABS:
=========================
___ 10:50PM BLOOD WBC-9.6 RBC-4.36* Hgb-14.3 Hct-40.8 
MCV-94 MCH-32.8* MCHC-35.0 RDW-12.7 RDWSD-43.6 Plt ___
___ 10:50PM BLOOD Neuts-59.9 ___ Monos-5.3 Eos-2.3 
Baso-0.5 Im ___ AbsNeut-5.77 AbsLymp-3.04 AbsMono-0.51 
AbsEos-0.22 AbsBaso-0.05
___ 11:04PM BLOOD ___ PTT-150* ___
___ 10:50PM BLOOD Glucose-104* UreaN-12 Creat-0.9 Na-138 
K-3.9 Cl-106 HCO3-21* AnGap-15
___ 10:50PM BLOOD cTropnT-0.12*
___ 10:50PM BLOOD CK-MB-10 MB Indx-5.0
___ 07:27AM BLOOD Calcium-8.6 Phos-3.5 Mg-1.9 

TROPONIN TREND: 
=========================
___ 10:50PM BLOOD cTropnT-0.12*
___ 02:58AM BLOOD CK-MB-18* cTropnT-0.34*
___ 09:04AM BLOOD CK-MB-20* cTropnT-0.36*
___ 03:00PM BLOOD CK-MB-16* cTropnT-0.29*
___ 07:27AM BLOOD cTropnT-0.18*

OTHER LABS:
=========================
___ 07:27AM BLOOD Triglyc-96 HDL-37 CHOL/HD-4.2 LDLcalc-100
___ 07:27AM BLOOD %HbA1c-5.5 eAG-111

IMAGING/STUDIES:
=========================
# EKG:  Incomplete RBBB with PAC's. <1mm STE V2-V3

# 2D-ECHOCARDIOGRAM (___):  The left atrium is elongated. 
Left ventricular wall thickness, cavity size and regional/global 
systolic function are normal (LVEF >55%). Right ventricular 
chamber size and free wall motion are normal. The diameters of 
aorta at the sinus, ascending and arch levels are normal. The 
aortic valve leaflets (3) appear structurally normal with good 
leaflet excursion and no aortic stenosis or aortic 
regurgitation. The mitral valve appears structurally normal with 
trivial mitral regurgitation. The pulmonary artery systolic 
pressure could not be determined. There is no pericardial 
effusion. IMPRESSION: Normal global and regional biventricular 
systolic function.  

# CARDIAC CATH (___): Tight mid-LAD lesion s/p DES. 
Coronary Anatomy
Dominance: Right
The LMCA had no angiographically apparent CAD. The LAD had 
proximal ulcerated, 70% stenosis.with normal flow. The Cx had 
mild luminal irregularities. The RCA had mild luminal 
irregularities.

Interventional Details
Percutaneous Coronary Intervention: Percutaneous coronary 
intervention (PCI) was performed on an adhoc basis based on the 
coronary angiographic findings from the diagnostic portion of 
this procedure.

Percutaneous Coronary Intervention: A 6 ___ XBLAD3.5 guiding 
catheter was used to engage the LMCA and provided good support. 
A 180 cm Prowater guidewire was then successfully delivered 
across the lesion. Predilated with a 2.0 mm balloon. Deployed a 
3.25 x 12 mm Xience stent that was postdilated to 3.5 mm. Final 
angiography revealed normal flow, no dissection and 0% residual 
stenosis.

# HEAD CT (___): No acute intracranial process.

DISCHARGE LABS:
=========================
___ 07:27AM BLOOD WBC-8.3 RBC-4.32* Hgb-13.8 Hct-40.6 
MCV-94 MCH-31.9 MCHC-34.0 RDW-12.6 RDWSD-43.9 Plt ___
___ 07:27AM BLOOD Plt ___
___ 07:27AM BLOOD Glucose-95 UreaN-10 Creat-1.0 Na-142 
K-4.0 Cl-108 HCO3-28 AnGap-10
___ 07:27AM BLOOD Calcium-8.6 Phos-3.5 Mg-1.___RIEF ___ STATEMENT:
============================
___ with a h/o tobacco abuse and HCV (s/p treatment), who 
presented with sudden onset of chest pain, found to have an 
NSTEMI, s/p DES x1 to the LAD. He received a heparin gtt 
initially, which was discontinued after the procedure. He 
received Tirofiqan in the lab and was loaded with ticgrelor and 
started on 90mg BID. He was not taking any medications at home, 
and was started on ASA 81 mg daily, Atorva 80 mg daily, 
Ticagrelor 90 mg BID, Metoprolol 12.5 mg BID. At time of 
discharge, he was chest pain free and ambulating without 
assistance.

TRANSITIONAL ISSUES:
============================
Discharge Weight: 85.8
Discharge Cr 1.0

# MEDICATIONS: New medications include Aspirin 81mg daily, 
Ticagrelol 90mg BID, Atorvastatin 80mg daily, and Metoprolol 
12.5 BID. Please ensure medication adherence and consider 
switching Metoprolol to XL 25mg daily as an outpatient.
# ___: Patient was referred to cardiac physical therapy
# SMOKING CESSATION: Patient was counseled on smoking cessation 
and was contemplative of quitting. He received nicotine gum. 
Please continue discussions as an outpatient.
 
Medications on Admission:
None
 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
IT IS VERY IMPORTANT THAT YOU TAKE THIS EVERY DAY. 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
2. Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*3
3. TiCAGRELOR 90 mg PO BID 
IT IS VERY IMPORTANT THAT YOU TAKE THIS EVERY DAY. 
RX *ticagrelor [BRILINTA] 90 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*3
4. Nicotine Polacrilex 2 mg PO Q1H:PRN cigarette cravings 
RX *nicotine (polacrilex) 2 mg  q1-2 hours Disp #*10 Gum 
Refills:*4
5. Metoprolol Tartrate 12.5 mg PO BID 
RX *metoprolol tartrate 25 mg 0.5 (One half) tablet(s) by mouth 
twice a day Disp #*60 Tablet Refills:*3

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY: Acute coronary syndrome 
SECONDARY: Tobacco abuse

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you. You were admitted to ___ 
for chest pain, which was caused by a heart attack. While you 
were here, you received a cardiac cath, and had a stent placed 
in a blocked vessel in your heart. You were monitored overnight, 
and did very well.

When you leave the hospital, it will be very important that you 
take all of your medications as prescribed, especially your 
ASPIRIN and BRILINTA (AKA- TICAGRELOR). You need to take these 
meds every day to prevent your stent from clotting. If you skip 
any doses of ticagrelor, you risk having a massive heart attack 
and death.

It will also be important that you attend all of your follow-up 
appointments, which are listed below. You should see Dr. ___ 
___ cardiologist who took care of you here) at ___.

We wish you all the best in the future.

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___